US07989442B2
k. (−)-(cis)-N-(6-chloro-7-cyano-8,14-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo [b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide
Preparation analogous to Example 3 from (−)-(cis)-N-(7-cyano-8,14-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide (0.277 g, 0.75 mmol) and NCS (0.10 g, 0.75 mmol). The crude compound was purified by HPLC to give the title compound (0.19 g, 62%). 1H-NMR (600 MHz, DMSO) 1.46-1.57 (m, 4H), 1.64 (m, 1H), 1.72 (m, 1H), 1.92 (m, 1H), 3.27 (m, 1H), 3.53 ( m, 1H), 4.31 (d, J=11.6, 1H), 4.38 (m, 1H), 7.05 (m, 1H), 7.11 (d, J=8.7, 1H), 7.33 (m, 1H), 7.64 (d, J=9.8, 1H), 7.81 (br-d, J=9.8, 1H). e.e.=100%, Rf=17.8 min. (chiralpak OD-H 25*0.46 cm, heptane:ethanol=9:1). (MIM)=403. [α]D20=−207° (c=1.0025, THF).

reactant | (−)-(cis)-N-(7-cyano-8,14-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide | 0.75 mmol, 0.277 g | C(#N)C1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(C)=O)C(=CC=C3)F)C=C1F | C20H17F2N3O2
reactant | NCS | 0.75 mmol, 0.10 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
product | (−)-(cis)-N-(6-chloro-7-cyano-8,14-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo [b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide | 0.19 g, 62% | ClC1=C(C(=CC=2OC3=C([C@@H]4N(C21)CCC[C@H]4NC(C)=O)C(=CC=C3)F)F)C#N | C20H16ClF2N3O2
